US05064839
A. 2-[2- (4,4-diphenylpiperid-1-yl)-ethoxy]-ethyl 2-acetyl-3-(3-nitrophenyl)-acrylate
4.1 g of 2-[2-(4,4-diphenylpiperid-1-yl)-ethoxy]-ethyl acetoacetate, 15 g of 3-nitrobenzaldehyde, 8 ml of acetic acid and 0.5 ml of piperidine are heated at the boiling point in 300 ml of toluene using a water separator. After 1.9 ml of water have been separated off, the cooled solution is washed with saturated sodium bicarbonate solution and then with water. After the organic phase has been dried with sodium sulfate, the clear reddish-brown solution is concentrated under a high vacuum. The resulting viscous residue is used for the condensation reaction, without further purification. Yield: 53 g of crude product as a cis/trans-isomer mixture. Other entraining agents which are suitable are: benzene and chlorinated hydrocarbons. The yield of crude product is 95-100% of theory.

reactant | 2-[2-(4,4-diphenylpiperid-1-yl)-ethoxy]-ethyl acetoacetate | 4.1 g | C(CC(=O)C)(=O)OCCOCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H31NO4
reactant | 3-nitrobenzaldehyde | 15 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 2-[2- (4,4-diphenylpiperid-1-yl)-ethoxy]-ethyl 2-acetyl-3-(3-nitrophenyl)-acrylate | C(C)(=O)C(C(=O)OCCOCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)=CC1=CC(=CC=C1)[N+](=O)[O-] | C32H34N2O6
